US07544697B2
Triphenylphosphine (21 mg, 0.082 mmol), 2-aminophenylboronic acid hydrochloride (710 mg, 4.1 mmol), 2 M aqueous sodium carbonate (4.1 mL), n-propanol (4.8 mL), and water (1 mL) were added to 4-(4-bromo-5-cyano-2-ethyl-2H-pyrazol-3-yl)butyl acetate (0.86 mg, 2.7 mmol), and the flask was evacuated and backfilled with nitrogen five times before the addition of palladium (II) acetate (6.0 g, 0.027 mmol). The reaction was evacuated and backfilled with nitrogen three more times and then heated overnight at 100° C. An analysis by HPLC indicated that the reaction was incomplete. Additional triphenylphosphine (10 mg, 0.038 mmol), 2-aminophenylboronic acid hydrochloride (300 mg, 1.73 mmol), solid sodium carbonate (500 mg), and palladium (II) acetate (3.0 g, 0.013 mmol) were added at ambient temperature, and the reaction was heated at reflux for three hours and allowed to cool to ambient temperature. The reaction was diluted with brine and extracted with chloroform. The combined extracts were dried over sodium sulfate, filtered, and concentrated under reduced pressure. Methanol (10 mL) and sodium methoxide (2.2 mL of a 47% solution in methanol) were added to the resulting dark oil. The reaction was heated at reflux for three hours, allowed to cool to ambient temperature, and concentrated under reduced pressure. The residue was diluted with water and extracted with chloroform. The combined extracts were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by chromatography on a HORIZON HPFC system (40+M cartridge, eluting with chloroform/CMA in a gradient from 100:0 to 75:25) to provide an oil. The oil was crystallized from acetonitrile and recrystallized from acetonitrile to provide 250 mg of 4-(4-amino-2-ethyl-2H-pyrazolo[3,4-c]quinolin-1-yl)butan-1-ol as gold-colored crystals, mp 159-160° C.

reactant | 2-aminophenylboronic acid hydrochloride | 4.1 mmol, 710 mg | Cl.NC1=C(C=CC=C1)B(O)O
reactant | sodium carbonate | 2 M, 4.1 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | n-propanol | 4.8 mL | C(CC)O | C3H8O
reactant | 4-(4-bromo-5-cyano-2-ethyl-2H-pyrazol-3-yl)butyl acetate | 2.7 mmol, 0.86 mg | C(C)(=O)OCCCCC=1N(N=C(C1Br)C#N)CC | C12H16BrN3O2
reactant | 2-aminophenylboronic acid hydrochloride | 1.73 mmol, 300 mg | Cl.NC1=C(C=CC=C1)B(O)O
reactant | sodium carbonate | 500 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | brine | [Cl-].[Na+].O
catalyst | palladium (II) acetate | 0.027 mmol, 6.0 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium (II) acetate | 0.013 mmol, 3.0 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | Triphenylphosphine | 0.082 mmol, 21 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | triphenylphosphine | 0.038 mmol, 10 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 1 mL | O | H2O
product | 4-(4-amino-2-ethyl-2H-pyrazolo[3,4-c]quinolin-1-yl)butan-1-ol | 250 mg | NC1=NC=2C=CC=CC2C=2C1=NN(C2CCCCO)CC | C16H20N4O
